data/mechanism_extracts/ChemCommun/10.1039_d2cc03301a_si1.json
{"doi": "10.1039_d2cc03301a_si1", "journal": "ChemCommun", "is_review": false, "rxn_class_summary": "Electrochemical radical cyclization of N-aryl acrylamides with polyhalomethanes (e.g., BrCHCl2, CH2I2) to give 3,3-disubstituted oxindoles bearing haloalkyl groups", "mechanism_family": ["radical_cathodic", "direct_SET"], "electrochemical_role": "Cathodic reduction of the polyhalomethane (e.g., Br-CHCl2) generates a haloalkyl radical (·CHCl2) via C-Br bond cleavage; this radical adds to the acrylamide alkene, and the resulting C-centered radical cyclizes onto the arene to form the oxindole after rearomatization", "key_intermediates": [{"name": "dichloromethyl radical (·CHCl2)", "smiles": "[CH](Cl)Cl", "role": "reactive"}, {"name": "tertiary C-radical from radical addition to acrylamide alkene", "smiles": null, "role": "transient"}, {"name": "cyclohexadienyl radical after ipso/ortho cyclization onto arene", "smiles": null, "role": "transient"}, {"name": "3,3-disubstituted oxindole product (e.g., compound 3)", "smiles": null, "role": "reactive"}], "electron_flow": "Cathode reduces the C-X bond of the polyhalomethane to release a haloalkyl radical; this radical adds across the acrylamide C=C, the resulting α-amido carbon radical undergoes intramolecular homolytic aromatic substitution onto the N-aryl ring, and anodic oxidation/deprotonation rearomatizes the cyclohexadienyl radical to deliver the oxindole.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction yield drops from 78% to <2% in the presence of 5 equiv TEMPO, consistent with a radical pathway"}], "evidence_types_used": ["intermediate_trap_TEMPO", "isolation_of_intermediate", "H/D_labeling"], "evidence_strength": "medium", "notes": "Radical trapping with TEMPO essentially shuts down the reaction, supporting radical intermediates. Cyclization products bearing CH2I (compound 39) and CHCl2 (compound 3) were isolated, and a deuterated analogue (compound 48) was prepared en route to deuterated Lansai B, providing isotope-labeling support for the proposed radical addition/cyclization sequence."}
